US07435822B2
8-(2-Chloro-benzyl)-3-[(4-methoxy-phenyl)-thiophen-3-yl-methylene]-8-aza-bicyclo[3.2.1]octane
Following the protocol for Example 15, and substituting 3-[(4-methoxy-phenyl)-thiophen-3-yl-methylene]-8-aza-bicyclo[3.2.1]octane for 3-[(3-methoxy-phenyl)-thiophen-3-yl-methylene]-8-aza-bicyclo[3.2.1]octane and 2-chlorobenzaldehyde for 2-methylbenzaldehyde the title compound was obtained; MS m/z (MH+) 437; 1H NMR 300 MHz (MeOD-d4) δ 6.80-7.67 (m, 11H), 3.76 (s, 3H), 3.71 (s, 2H), 3.21-3.30 (m, 2H), 2.01-2.48 (m, 6H), 1.61-1.68 (m, 2H).

reactant | 3-[(3-methoxy-phenyl)-thiophen-3-yl-methylene]-8-aza-bicyclo[3.2.1]octane | COC=1C=C(C=CC1)C(=C1CC2CCC(C1)N2)C2=CSC=C2 | C19H21NOS
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 2-methylbenzaldehyde | CC1=C(C=O)C=CC=C1 | C8H8O
product | 8-(2-Chloro-benzyl)-3-[(4-methoxy-phenyl)-thiophen-3-yl-methylene]-8-aza-bicyclo[3.2.1]octane | ClC1=C(CN2C3CC(CC2CC3)=C(C3=CSC=C3)C3=CC=C(C=C3)OC)C=CC=C1 | C26H26ClNOS
